US05153214
A mixture of 0.5 g (1.67 mmol) 2-[3-(tetrahydropyranyloxy)propyl]-2-ethoxycarbonylcyclopentanone and 5 ml ethanol is saturated with ammonia gas at 5° in a thick-wall tube. The tube is sealed and heated to 80° for 17 h. The reaction mixture is cooled and then subjected to evaporation. The resulting oil is chromatographed using 4:1 ethylacetate/hexane +1% aqueous ammonia to yield 5-ethoxycarbonyl-5-[3-(tetrahydropyranyloxy)propyl]-valeramide; IR (neat): 3413, 3349, 1727, 1668 cm-1.

reactant | 2-[3-(tetrahydropyranyloxy)propyl]-2-ethoxycarbonylcyclopentanone | 1.67 mmol, 0.5 g | O1C(CCCC1)OCCCC1(C(CCC1)=O)C(=O)OCC | C16H26O5
reactant | ammonia | N | H3N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-ethoxycarbonyl-5-[3-(tetrahydropyranyloxy)propyl]-valeramide | C(C)OC(=O)C(CCCC(=O)N)CCCOC1OCCCC1 | C16H29NO5
